* C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\punto 5 senoidemontecarlo.asc
R1 N004 +VCC {mc(220k,tola)}
R2 0 N004 {mc(220k,tola)}
R3 N001 N002 {mc(10k,tola)}
R4 vt1 N002 {mc(220k,tola)}
R5 vt2 N003 {mc(1k,tola)}
C1 N004 Vin {mc(100nf,tolb)}
C4 out 0 {mc(3.3nf,tolb)}
R8 Vin 0 {mc(1Meg,tola)}
V2 +VCC 0 9
V3 Vin 0 SINE(0 1 1K) AC 1
R6 out vt2 {mc(1k,tola)}
C5 +VCC 0 {mc(100n,tolb)}
C6 +VCC 0 {mc(33µf,tolb)}
R7 out 0 {mc(100k,tola)}
C2 N001 0 {mc(1µf,tolb)}
XU1 N004 N002 +VCC 0 vt1 TL082 TL082
C3 N003 vt1 {mc(100nf,tolb)}
D1 vt2 0 1N4148
D2 0 vt2 1N4148
C7 out 0 {mc(14pf,tolb)}
R9 0 out {mc(1Meg,tola)}
C8 Vin 0 {mc(14pf,tolb)}
R10 Vin 0 {mc(1Meg,tolb)}
.model D D
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\TL082\TL082.301"
.inc "C:\Users\joa-m\InformesTC\TP2\EJ5\LTSPICE\Models\1N4148\1n4148.sub"
.inc "opamp.sub"
.ac dec 0.1 5 500k
.param tola=0.10
.param tolb=0.10
.step param run 1 100 1
.backanno
.end
